US07423181B2
A solution of 3,5-dihydroxybenzaldehyde (14.4 mmol) and pyridine (114 mmol) in methylene chloride (20 ml) was slowly added trifluoromethanesulfonic anhydride (36.2 mmol) keeping the temperature below 5° C. After 10 min the mixture was washed with water and the organic phase was concentrated under reduced pressure. The crude brown crystals (6.4 g—product and pyridine −1:1), phenylboronic acid (13.2 mmol), sodium carbonate (39.6 mmol) and dichlorobis(triphenylphosphine)-palladium (II). (3 mol %) was dissolved in DME (40 ml) and water (20 ml). The mixture was refluxed for 17 h under Argon, cooled to room temperature and extracted with ethyl acetate. Purification by chromatography yielded 5-Hydroxy-biphenyl-3-carbaldehyde

reactant | 3,5-dihydroxybenzaldehyde | 14.4 mmol | OC=1C=C(C=O)C=C(C1)O | C7H6O3
reactant | trifluoromethanesulfonic anhydride | 36.2 mmol | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | phenylboronic acid | 13.2 mmol | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 39.6 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DME | 40 ml | COCCOC | C4H10O2
solvent | water | 20 ml | O | H2O
catalyst | dichlorobis(triphenylphosphine)-palladium (II) | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 114 mmol | N1=CC=CC=C1 | C5H5N
product | 5-Hydroxy-biphenyl-3-carbaldehyde | OC=1C=C(C=C(C1)C1=CC=CC=C1)C=O | C13H10O2
